US06995263B2
a] 2-Cyclopropyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid ethyl ester
In analogy to the procedure described in example 18 d], 3-amino-3-cyclopropyl-acrylic acid ethyl ester (J. P. Célérier, E. Deloisy, P. Kapron, G. Lhommet, P. Maitte, Synthesis 1981, 130–133) was reacted with (Z)-4,4,4-trifluoro-3-hydroxy-1-(4-trifluoromethoxy-phenyl)-but-2-en-1-one (example 16 a]) to give the title compound as colorless oil.

reactant | 3-amino-3-cyclopropyl-acrylic acid ethyl ester | C(C)OC(C=C(C1CC1)N)=O | C8H13NO2
reactant | (Z)-4,4,4-trifluoro-3-hydroxy-1-(4-trifluoromethoxy-phenyl)-but-2-en-1-one | FC(/C(=C/C(=O)C1=CC=C(C=C1)OC(F)(F)F)/O)(F)F | C11H6F6O3
product | 2-Cyclopropyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)C1CC1)=O | C19H15F6NO3
